### PR TITLE
[Merged by Bors] - chore: turn `induction'` into `induction`

### PR DESCRIPTION
**Pull request by pitmonticone**
This PR substitutes the (soon to be deprecated) `induction'` with `induction`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Polynomial/Laurent.lean [hunk 1]
```diff
@@ -365,10 +365,9 @@ it follow that `Q` is true on all Laurent polynomials. -/
 theorem reduce_to_polynomial_of_mul_T (f : R[T;T⁻¹]) {Q : R[T;T⁻¹] → Prop}
     (Qf : ∀ f : R[X], Q (toLaurent f)) (QT : ∀ f, Q (f * T 1) → Q f) : Q f := by
   induction' f using LaurentPolynomial.induction_on_mul_T with f n
-  induction' n with n hn
-  · simpa only [Nat.zero_eq, Nat.cast_zero, neg_zero, T_zero, mul_one] using Qf _
-  · convert QT _ _
-    simpa using hn
+  induction n with
+    | zero => simpa only [Nat.zero_eq, Nat.cast_zero, neg_zero, T_zero, mul_one] using Qf _
+    | succ n hn => convert QT _ _; simpa using hn
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Polynomial/Laurent.lean:370]: Please be consistent in your indentation

File: Mathlib/Algebra/Group/Support.lean [hunk 2]
```diff
@@ -209,9 +209,10 @@ theorem mulSupport_mul [MulOneClass M] (f g : α → M) :
 @[to_additive]
 theorem mulSupport_pow [Monoid M] (f : α → M) (n : ℕ) :
     (mulSupport fun x => f x ^ n) ⊆ mulSupport f := by
-  induction' n with n hfn
-  · simp [pow_zero, mulSupport_one]
-  · simpa only [pow_succ'] using (mulSupport_mul f _).trans (union_subset Subset.rfl hfn)
+  induction n with
+  | zero => simp [pow_zero, mulSupport_one]
+  | succ n hfn =>
+      simpa only [pow_succ'] using (mulSupport_mul f _).trans (union_subset Subset.rfl hfn)
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Group/Support.lean:215]: I think previous PRs only indented two spaces (so would line up with `succ`). I think I prefer that

Comment (pitmonticone) [reply Mathlib/Algebra/Group/Support.lean:215]: Yes, you're right. Sorry for the sloppiness. I'm going to fix it everywhere.

File: Mathlib/Algebra/Polynomial/Laurent.lean (hunk 1 above)
Comment (pitmonticone) [reply Mathlib/Algebra/Polynomial/Laurent.lean:370]: Sorry, I am going to fix that in a moment.

**Comment by pitmonticone** [comment]
I should have addressed all the comments. 

Thank you @Ruben-VandeVelde for your review!

**Comment by semorrison** [comment]
bors merge
